US05914324
3β-tert-Butyldimethylsilyloxy-5α-androstan-6α,17β-diol (II-a)
tert-Butyldimethylsilylchloride (9.72 g) was added, at room temperature, to a solution of prasterone (V, 15 g) in pyridine (60 mL). After 24 hrs, the reaction mixture was poured into iced water (600 mL). Ethyl acetate was added, the two layers were separated, the organic layer washed with sodium bicarbonate (5%), sodium dihydrogenphosphate (5%) and brine, dried over sodium sulfate and evaporated to dryness under reduced pressure. The crude residue, [3β-tert-butyldimethylsilyloxy-androst-5-en-17-one, g 23.9; 1H-NMR (300 MHz. CDCl3, ppm from TMS): 5.32 (1H, d), 3.48 (1H, hept), 2.49 (1H, dd), 2.35-0.8 (33H, m), 0.03 (6H, s)] was dissolved in diethyl ether/ethanol (335 mL/250 mL), cooled to 0° C. and treated with sodium borohydride (4 g). The reaction mixture was stirred at room temperature for 1 hr. then quenched with 1N hydrochloric acid to pH=7, diluted with brine (300 mL) and extracted with diethyl ether. The organic layer was separated, dried over sodium sulfate and evaporated to dryness under reduced pressure. The crude residue, [3β-tert-butyldimethylsilyloxy-androst-5-en-17β-ol, g 21; 1H-NMR (300 MHz, CDCl3, ppm from TMS): 5.32 (1H, m), 3.62 (1H, m), 3.48 (1H, hept), 2.35-0.8 (34H, m), 0.03 (6H, s)] was dissolved in tetrahydrofurane (850 mL), cooled to 0° C. and treated with borane-dimethylsulfide complex (THF, 1M, 155 mL). The reaction mixture was stirred at room temperature for 2 hrs, then it was cooled to 0° C. and quenched with water (300 mL), and sodium perborate tetrahydrate (43 g). The mixture was stirred overnight at room temperature, ammonium chloride (30%, 300 mL) was added, the two layers were separated, the organic one dried over sodium sulfate and evaporated under reduced pressure. The crude residue was purified by flash-chromatography (SiO2 ; n-hexane/ethyl acetate 75/25) to give to give 18 g of the title compound (II-a) as a foam. 1H-NMR (300 MHz, CDCl3, ppm from TMS): 3.68 (1H, t), 3.52 (1H, hept), 3.42 (1H, dd), 2.20-0.6 (35H, m), 0.03 (6H, s).

reactant | tert-Butyldimethylsilylchloride | 9.72 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | prasterone | 15 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | water | 600 mL | O | H2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 3β-tert-Butyldimethylsilyloxy-5α-androstan-6α,17β-diol | 18 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C25H46O3Si
